US07105567B2
By the reaction and treatment in the same manner as in Example 2 using [(4-methoxyphenyl)methyl](4-octylphenyl)amine (2.2 g) and 2,6-diisopropylphenyl isocyanate (1.2 g) as starting materials, N′-(2,6-diisopropylphenyl)-N-[(4-methoxyphenyl)methyl]-N-(4-octylphenyl)urea (1.5 g) was obtained.

reactant | [(4-methoxyphenyl)methyl](4-octylphenyl)amine | 2.2 g | COC1=CC=C(C=C1)CNC1=CC=C(C=C1)CCCCCCCC | C22H31NO
reactant | 2,6-diisopropylphenyl isocyanate | 1.2 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-[(4-methoxyphenyl)methyl]-N-(4-octylphenyl)urea | 1.5 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=C(C=C1)CCCCCCCC)CC1=CC=C(C=C1)OC)=O | C35H48N2O2
